US04727081
N-Ethyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide
The above compound is prepared by a method analogous to that of Example 5 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide and ethylisothiocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | ethylisothiocyanate | C(C)N=C=S | C3H5NS
product | N-Ethyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide | C(C)NC(=S)NNC(NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C19H31N5OS2
